US06180640B2
Synthesis of 4-(3-piperidinyl)-propargyl-aniline
Under nitrogen gas, to a pre-cooled (0° C., ice-bath) flask containing 400 mL piperidine, a number of reagents were added, including 14.2 mL of propargyl bromide (80 wt. % solution in toluene, 127 mmol), 22.0 g of 4-iodoaniline (100 mmol), 1.4 g of tetrakis(triphenylphosphine)palladium O) (1.2 mmol) and 200 mg copper(I) iodide (1.05 mmol). The mixture was heated for 18 h (40-45° C., oil bath temperature). The reaction mixture was filtered through Celite and the solvent (piperidine) was removed. The crude solid was redissolved with 125 mL AcOEt. The acetate solution was extracted with water (2×450 mL) and dried with brine (2×250 mL). Flash column chromatography on aluminum oxide (Brockmann I, basic, Aldrich #19,944-3, CH2Cl2) supplied 4-(3-piperidinyl)-propargyl-aniline as a light yellow solid (3.1 g; yield: 15%).

reactant | propargyl bromide | 127 mmol, 14.2 mL | C(C#C)Br | C3H3Br
reactant | 4-iodoaniline | 100 mmol, 22.0 g | IC1=CC=C(N)C=C1 | C6H6IN
catalyst | tetrakis(triphenylphosphine)palladium | 1.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 1.05 mmol, 200 mg | [Cu]I
solvent | piperidine | 400 mL | N1CCCCC1 | C5H11N
product | 4-(3-piperidinyl)-propargyl-aniline | yield: 15% | N1CC(CCC1)C1=CC=C(NCC#C)C=C1 | C14H18N2
